US04722929
8-(4-Acetamido-2-dimethylamino-phenyl)-purin-6-one
A quantity of 0.6 gm of 8-(4-amino-2-dimethylamino-phenyl)purin-6-one is heated to 150° C. in 5 ml of acetic anhydride for one hour. The mixture is evaporated to dryness in vacuo and recrystallized from acetone/ether.

reactant | 8-(4-amino-2-dimethylamino-phenyl)purin-6-one | 0.6 gm | NC1=CC(=C(C=C1)C1=NC2=NC=NC(C2=N1)=O)N(C)C | C13H12N6O
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-(4-Acetamido-2-dimethylamino-phenyl)-purin-6-one | C(C)(=O)NC1=CC(=C(C=C1)C1=NC2=NC=NC(C2=N1)=O)N(C)C | C15H14N6O2
